US04943584
A solution of 8.83 g of 4-phenoxyphenol in 15 ml of absolute dimethylformamide is dripped into 1.5 g of 80% strength sodium hydride in 15 ml of absolute dimethylformamide. Upon completion of hydrogen evolution, 7.0 g of 4-chloromethyl-2-methylthiazole is dripped in and the mixture stirred for 3 hours at 80° C. After the solvent has been removed, the residue is slurried with 200 ml of water and extracted 3 times, each time with 50 ml of ether. After drying over sodium sulfate and removal of the solvent, the crude product is recrystallized from cyclohexane/methyl tert-butyl ether (20:1). There is obtained 6.5 g of 2-methyl-4-[(phenoxyphenoxy)-methyl]-thiazole; m.p.: 70°-73° C.

reactant | 4-phenoxyphenol | 8.83 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 4-chloromethyl-2-methylthiazole | 7.0 g | ClCC=1N=C(SC1)C | C5H6ClNS
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-methyl-4-[(phenoxyphenoxy)-methyl]-thiazole | 6.5 g | CC=1SC=C(N1)COC1=C(C=CC=C1)OC1=CC=CC=C1 | C17H15NO2S
